US07307094B2
N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-phenylbenzoxazole-4-carboxamide was prepared from 2-phenylbenzoxazole-4-carboxylic acid and 3-aminoquinuclidine dihydrochloride using the method outlined in Step C of Example 7. This compound was obtained in 51% yield as an off-white solid: mp 77-80° C.; 1H NMR (500 MHz, CDCl3) δ 9.58 (d, J=7.1 Hz, 1H), 8.24 (d, J=5.2 Hz, 2H), 8.19 (d, 1H, J=6.8 Hz, 1H), 7.72 (d, J=7.1 Hz, 1H), 7.61-7.49 (m, 3H), 7.48 (t, J=7.9 Hz, 1H), 4.31 (m, 1H), 3.51 (dd, J=7.1, 2.3 Hz, 1H), 3.10 (m, 2H), 2.91 (m, 2H), 2.83 (dd, J=10.1, 4.2 Hz, 1H), 2.16 (m, 1H), 2.05 (m, 1H), 1.65-1.43 (m, 3H); MS (APCI) m/z 348 [M+H]+

reactant | 2-phenylbenzoxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C14H9NO3
reactant | 3-aminoquinuclidine dihydrochloride | Cl.Cl.NC1CN2CCC1CC2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-phenylbenzoxazole-4-carboxamide | 51% yield | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=CC=C1 | C21H21N3O2
